US04939241
To a solution of benzyl O-(N-benzyloxycarbonyl-3-phenyl-O-tetrahydropyranyl-D,L-serinyl)-N-trifluoroacetyl-L-serinate (0.8 g) in methanol (10 ml) was added p-toluenesulfonic acid (45.6 mg) at room temperature. After stirring for an hour at room temperature, the reaction mixture was concentrated and the residue was chromatographed on preparative thin layer chromatography to give benzyl O-(N-benzyloxycarbonyl-3-phenyl-D,L-serinyl)-N-trifluoroacetyl-L-serinate (404 mg).

reactant | benzyl O-(N-benzyloxycarbonyl-3-phenyl-O-tetrahydropyranyl-D,L-serinyl)-N-trifluoroacetyl-L-serinate | 0.8 g | C(C1=CC=CC=C1)OC(=O)NC(C(OC1OCCCC1)C1=CC=CC=C1)C(=O)OC[C@H](NC(C(F)(F)F)=O)C(=O)OCC1=CC=CC=C1 | C34H35F3N2O9
reactant | p-toluenesulfonic acid | 45.6 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | methanol | 10 ml | CO | CH4O
product | benzyl O-(N-benzyloxycarbonyl-3-phenyl-D,L-serinyl)-N-trifluoroacetyl-L-serinate | 404 mg | C(C1=CC=CC=C1)OC(=O)NC(C(O)C1=CC=CC=C1)C(=O)OC[C@H](NC(C(F)(F)F)=O)C(=O)OCC1=CC=CC=C1 | C29H27F3N2O8
